2143-09-07 11:05:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo female with IDDM/gastroparesis admitted with worsening
   gastroparesis w/p G-J tube. Course complicated by hypoxia/resp distress
   with transferred to [**Hospital Unit Name 4**] [**9-6**].
   24 Hour Events:
 BLOOD CULTURED - At [**2143-9-6**] 04:10 PM
   V/Q scan and CT scan
 URINE CULTURE - At [**2143-9-6**] 04:10 PM
   History obtained from Medical records
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2143-9-6**] 08:42 PM
   Metronidazole - [**2143-9-6**] 11:43 PM
   Vancomycin - [**2143-9-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2143-9-7**] 04:32 AM
   Pantoprazole (Protonix) - [**2143-9-7**] 08:00 AM
   Lorazepam (Ativan) - [**2143-9-7**] 08:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-7**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 119 (114 - 120) bpm
   BP: 142/76(94) {117/58(73) - 153/106(112)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                    690 mL
                                                                  1,029 mL
   PO:
             120 mL
   TF:
                                                                     15 mL
                                                                    535 mL
   IVF:
                                                                    675 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    310 mL
   Urine:
                                                                  1,185 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -495 mL
                                                                    719 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) Overweight / Obese, No(t)
   Thin, No(t) Anxious, No(t) Diaphoretic, tachypneic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, No(t) Distant,
   No(t) Loud), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse, Wheezes : diffuse)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: left
   side, post G-J tube
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   9.9 g/dL
   560 K/uL
   60 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.5 mEq/L
   20 mg/dL
   99 mEq/L
   136 mEq/L
   30.2 %
   25.0 K/uL
        [image002.jpg]
                             [**2143-9-6**]  07:34 AM
                             [**2143-9-6**]  12:00 PM
                             [**2143-9-6**]  06:00 PM
                             [**2143-9-7**]  04:07 AM
   WBC
   20.2
   25.0
   Hct
   27.3
   30.2
   Plt
   404
   560
   Cr
   1.0
   1.0
   Glucose
   [**Telephone/Fax (3) 1154**]0
   Other labs: Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Imaging: CT chest [**9-6**] (reviewed): extensive bilateral infiltrates with
   both areas of ground-glass and areas of consodilation. Involvement
   appears diffuse though is increased centrally.
   Echo: ef 55%, no WMA'
   Assessment and Plan
   37 year old female with IDDM and gastroparesis with acute resp distress
   and bilateral infiltrates.
   Suspect [**Doctor Last Name 76**] (either aspiration or TRALI).
   1. Acute resp distress: Suspect she has acute lung injury, potentially
   from TRALI though aspiration also a consideration given her
   gastroparesis. She is minimally changed from yesterday but continues to
   have high FiO2 requirement currently on NRB.
   -Continue supportive care and supplemental oxygen- has not responded to
   recent lasix
   -Panel sent for evaluation of TRALI
   -On empiric abx to cover aspiration PNA
   2. CDiff: Cdiff colitis during this hospitalization- on po vanco with
   no recent diarrhea. Complete abx course
   3. Gastroparesis: Has G-J tube- will feed through J part
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2143-9-7**] 07:28 AM 50 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-9-7**] 08:57 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   Evening update: she has continued to feel uncomfortable throughout the
   day with continued high O2 requirement. Tried a small dose of lasix in
   case there was superimposed volume overload: she had increased uop with
   no subjective improvement, also rx
d with nebulizers. ABG
s show
   developing hypercarbia. Patient started this evening on NIPPV and since
   initiation appears to have reduced work of breathing. Will obtain f/u
   ABG.
   Pt critically ill.
   Total time: 20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2143-9-7**] 21:49 ------

2143-09-08 09:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   *EJ access
   *^6 large BM
   *Still in resp distress and developing hypercarbia with minimal
   response to lasix or nebs. Placed on NIPPV off and on
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2143-9-7**] 08:23 PM
   Metronidazole - [**2143-9-8**] 12:00 AM
   Vancomycin - [**2143-9-8**] 06:00 AM (IV and po)
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-9-7**] 02:45 PM
   Lorazepam (Ativan) - [**2143-9-7**] 04:18 PM
   Heparin Sodium (Prophylaxis) - [**2143-9-8**] 08:00 AM
   Other medications: fluxoetine, niferex, remeron, SSI, Lantus insulin,
   SQ heparin, IV protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-8**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 112 (112 - 123) bpm
   BP: 126/63(78) {116/55(73) - 163/79(98)} mmHg
   RR: 20 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  2,749 mL
                                                                    968 mL
   PO:
                                                                    340 mL
             TF:
                                                                  1,202 mL
                                                                    473 mL
   IVF:
                                                                    807 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    510 mL
   Urine:
                                                                    745 mL
                                                                    210 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                  2,004 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: Standby
   Vt (Spontaneous): 501 (501 - 1,012) mL
   PS : 8 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.37/54/202/26/4
   Ve: 5.7 L/min
   PaO2 / FiO2: 404
   Physical Examination
   General Tachypneic, though states she feels about the same or slightly
   better than yesterday
   HEENT PEERL, EOMI
   Lungs: scattered rales diffusely
   CV: tachycardic, rr, no M/G
   Abd: soft, non tender, +bs
   Ext calves nontender
   Labs / Radiology
   8.4 g/dL
   437 K/uL
   193 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.5 mEq/L
   27 mg/dL
   99 mEq/L
   134 mEq/L
   26.5 %
   22.1 K/uL
        [image002.jpg]
                             [**2143-9-6**]  07:34 AM
                             [**2143-9-6**]  12:00 PM
                             [**2143-9-6**]  06:00 PM
                             [**2143-9-7**]  04:07 AM
                             [**2143-9-7**]  02:40 PM
                             [**2143-9-7**]  06:41 PM
                             [**2143-9-8**]  03:36 AM
   WBC
   20.2
   25.0
   22.1
   Hct
   27.3
   30.2
   26.5
   Plt
   [**Telephone/Fax (3) 1184**]
   Cr
   1.0
   1.0
   1.3
   TCO2
   31
   32
   Glucose
   [**Telephone/Fax (3) 1154**]0
   193
   Other labs: PT / PTT / INR:16.5/32.2/1.5, Differential-Neuts:90.9 %,
   Band:1.0 %, Lymph:4.5 %, Mono:3.5 %, Eos:1.0 %, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   No sputum culturee
   Bd Cx
s NGTD
   Only positive +Cdiff [**8-31**]
   Legionella negative
   CXR today: continued bilateral diffuse infiltrates, potentially
   slightly increased from yesterday with cardiac silhouette less defined
   Assessment and Plan
   37 year old female with IDDM and gastropareisi s/p G-J tube placement
   here with primarily hypoxic respiratory distress and diffuse bilateral
   infiltrates. Suspecting [**Doctor Last Name 76**] either TRALI or post-aspiration.
   Respiratory course remains tenuous with high FiO2 requirement
   Acute resp distress:
   *As course appears more from TRALI and, even if aspiration instead was
   precipitant, lung injury was more chemical mediated than infectious,
   will stop Cefipime/[**Doctor Last Name **]
   *Continue supportive care, NIPPV as tolerated, may need mech
   ventilation if worsens or tires out
   Diarrhea: Worsening diarrhea could be either worsening Cdiff  or
   osmotic as it developed coincident with fibersource. Will change TF
   On po vanco/flagyl Scaling back antibiotics which should help with
   stool output
   -          I
s and O
s may not be fullly reflective as all stool ouput
   not accounted for.
   -          -Increase IVF
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2143-9-8**] 07:02 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-9-7**] 07:46 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2143-09-09 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Vanc/Cefepime stopped for c diff exacerbation and diarrhea
   No FIbersourse overnight, pt with 600cc liquid stool in 24 hrs
   Central line placed in right femoral.
   Pt received bolus of 500cc for low UOP.
   Patient c/o SOB, but very anxious and looking good. So received ativan
   0.5mg
   ABG 7.41/47/220s on NRB mask 40%
 MULTI LUMEN - START [**2143-9-8**] 03:27 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2143-9-7**] 08:23 PM
   Metronidazole - [**2143-9-8**] 12:00 AM
   Vancomycin - [**2143-9-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-9-8**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   pt with continued c/o SOB
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Dyspnea
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2143-9-9**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96.1
   HR: 109 (106 - 118) bpm
   BP: 103/55(66) {93/34(49) - 128/68(82)} mmHg
   RR: 15 (12 - 33) insp/min
   SpO2: 99%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  4,298 mL
                                                                  2,162 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    363 mL
   IVF:
                                                                  2,498 mL
                                                                  1,548 mL
   Blood products:
   Total out:
                                                                  1,177 mL
                                                                    184 mL
   Urine:
                                                                    577 mL
                                                                     84 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  3,121 mL
                                                                  1,978 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: Standby
   Vt (Spontaneous): 501 (501 - 1,012) mL
   PS : 8 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: 7.41/47/268/27/4
   Ve: 5.7 L/min
   PaO2 / FiO2: 536
   Physical Examination
   General Appearance: No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Bronchial: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   527 K/uL
   7.6 g/dL
   209
   1.4 mg/dL
   27 mEq/L
   4.4 mEq/L
   32 mg/dL
   101 mEq/L
   133 mEq/L
   23.6 %
   20.8 K/uL
        [image002.jpg]
                             [**2143-9-6**]  07:34 AM
                             [**2143-9-6**]  12:00 PM
                             [**2143-9-6**]  06:00 PM
                             [**2143-9-7**]  04:07 AM
                             [**2143-9-7**]  02:40 PM
                             [**2143-9-7**]  06:41 PM
                             [**2143-9-8**]  03:36 AM
                             [**2143-9-8**]  12:37 PM
                             [**2143-9-9**]  02:04 AM
                             [**2143-9-9**]  06:00 AM
   WBC
   20.2
   25.0
   22.1
   20.8
   Hct
   27.3
   30.2
   26.5
   23.6
   Plt
   [**Telephone/Fax (3) 1225**]27
   Cr
   1.0
   1.0
   1.3
   1.4
   TCO2
   31
   32
   31
   Glucose
   [**Telephone/Fax (3) 1154**]0
   193
   186
   209
   Other labs: PT / PTT / INR:17.1/33.0/1.5, Differential-Neuts:89.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:2.0 %, Eos:2.0 %, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   37 yoF w/ a h/o DMI c/b gastroparesis, here with gastroparesis-
   developed hypoxia worsening x 2 days and subjective SOB, orthopnea and
   PND and multifocal opacities on CXR- difficult to wean from NRB
   supplemental oxygen.
   .
   Plan:
   # HYPOXIA: Very large A-a gradient, bilateral alveolar infiltrates on
   CXR, increase WBC, but no fevers. Symtoms started after transfusion.
   Patient continues to have orthopnea. V/Q scan negative for PE, echo
   showed EF 65%. Given the current information TRALi is still at the top
   of the differential diagnoses. Since her diarrhea is getting off with
   antibiotics we will stop PNA treatment and have low threshold to
   restart.
   -cont to hold Vanc/Cefepime for now
   - F/u antibody results
   - CXR tomorrow
   - Continue Facemask O2; may re-do gas if getting tired and re-assess
   -cont supportive measures, such as nebs prn and supplemental oxygen for
   possible ARDs or TRALI
   -patient is full code, if needs intubation would do ARDS net
   ventilation strategy
   -blood cultures all no growth to date
   - urine legionella negative
   - urine culture no growth
   .
   # C diff: C diff colitis on this admission presenting with diarrhea.
   Patient has gotten worse in the last 24 [**Last Name (LF) 1201**], [**First Name3 (LF) **] stopped antibiotics
   and will only continue PO vanc and IV flagyl. On [**8-31**] she was C diff
   toxin positive.
   -she is on PO vancomycin and  IV flagyl
   .
   # Gastroparesis and abdominal pain with associated n/v: her symptoms
   are improving.  She had a GJ tube in the past, and it was felt by GI
   that she again needed a GJ tube for both decompression and tubefeeding.
   GJ tube was placed on [**8-30**] by IR. Patient then had severe pain and it
   was noted on CT scan that she had intussusception of her duodenum into
   her stomach with gastric outlet obstruction.  She had an NGT placed
   with 1300cc of bilious fluid removed. IR emergently repositioned the
   tube.
   .
   # FEN:
   - will need to follow nutrition recs and swith to other tube feeds,
   since current is associated with diarrhea.
   .
   # Acute Renal Failure: has Creatinine trending up. Does not meet
   criteria for renal failure yet.
   -          Urine lytes
   -          UA
   .
   #. Diabetes type 1, uncontrolled, with complications of autonomic
   insufficiency, gastroparesis, and periperal neuropathy. HgbA1c was 8.0.
   -gastroparesis improving as above
   - consider now increasing insulin as needed based on increased tube
   feedings
   -was on lantus 4 qam and 9qhs and sliding scale insulin prior to
   transfer but is on much greater dose at home
   .
   # Anemia, iron deficiency: Hct 22-23 at baseline, s/p 2uPRBC with new
   HCT > 30.  continue to trend.
   -guiac stools
   -outpatient C scope
   .
   #. Depression/Bipolar Disorder: continued remeron, seroquel, fluoxetine
   .
   # Access: Patient will need central line since no good peripheral
   access. LIJ was tried, but patient did not tolerate being down for
   procedure, so left femoral will be placed
   .
   # PPx:  sc heparin tid, ppi
   .
   # Code: FULL CODE
   .
   # Dispo:  ICU until respiratory stable.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2143-9-8**] 10:50 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2143-9-7**] 07:46 PM
   Multi Lumen - [**2143-9-8**] 03:27 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2143-09-10 07:43:00 Physician Resident Progress Note
Chief Complaint: 37 yoF w/ a h/o DMI c/b gastroparesis, here with
   gastroparesis- developed hypoxia worsening x 2 days and subjective SOB,
   orthopnea and PND and multifocal opacities on CXR- difficult to wean
   from NRB supplemental oxygen.
   24 Hour Events:
   Pt was intubated because respiratory distress
   ABG: 7.38/46/136/28 --> FiO2 changed to 40%
   Could not place a-line or central line
   Checked sputum
   Pt on Vanco po and IV flagyl for [**Name (NI) 1281**]
   Pt with low continued low UOP
   Inc versed to 10mg/hr sedation
 SPUTUM CULTURE - At [**2143-9-9**] 11:00 PM
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2143-9-7**] 08:23 PM
   Vancomycin - [**2143-9-9**] 06:00 PM
   Metronidazole - [**2143-9-10**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-10**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 105 (104 - 128) bpm
   BP: 105/56(67) {102/49(63) - 143/81(97)} mmHg
   RR: 28 (8 - 32) insp/min
   SpO2: 97%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  4,574 mL
                                                                  1,436 mL
   PO:
             TF:
                                                                    648 mL
                                                                    363 mL
   IVF:
                                                                  3,525 mL
                                                                    974 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                    200 mL
   Urine:
                                                                    409 mL
                                                                    200 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  4,065 mL
                                                                  1,236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 809 (809 - 2,431) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 97%
   ABG: 7.38/46/136/25/1
   Ve: 13 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: pupils not reactive to light
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, No(t) Tender: ,
   g-tube: dressing C/I/D
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Noxious stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   759 K/uL
   7.6 g/dL
   130
   1.4 mg/dL
   25 mEq/L
   4.4 mEq/L
   32 mg/dL
   103 mEq/L
   135 mEq/L
   23.0 %
   17.9 K/uL
         [image002.jpg]
                             [**2143-9-9**]  08:07 AM
                             [**2143-9-9**]  11:39 AM
                             [**2143-9-9**]  02:31 PM
                             [**2143-9-9**]  03:07 PM
                             [**2143-9-9**]  06:00 PM
                             [**2143-9-9**]  08:00 PM
                             [**2143-9-9**]  09:27 PM
                             [**2143-9-10**]  12:00 AM
                             [**2143-9-10**]  04:27 AM
                             [**2143-9-10**]  05:00 AM
   WBC
   17.9
   Hct
   22.8
   23.0
   Plt
   759
   Cr
   1.4
   1.4
   TCO2
   28
   28
   28
   28
   Glucose
   161
   152
   155
   174
   154
   106
   130
   Other labs: PT / PTT / INR:16.3/32.0/1.5, Alk Phos / T Bili:/0.1,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:0.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, LDH:360 IU/L, Ca++:7.6 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Plan:
   # HYPOXIA: Bilateral alveolar infiltrates on CXR, WBC trending down,
   afebrile fevers. Symtoms started after transfusion. Patient continues
   to have orthopnea. V/Q scan negative for PE, echo showed EF 65%. Given
   the current information patient meets criteria for ARDS (aspiration
   pneumonitis vs TRALi, although TRALI should have improved by this time)
   the top of the differential diagnoses isaspiration pneumonitis.   Pt
   was reintubated.  Pt ABG yesterday: 7.38/46/136/28 --> [**Month (only) 453**] FiO2 to 40%.
   - will cont to monitor resp status on ARDS ventilation protocol.
   - Will attempt to place a-line and central line
   - f/u CXR tomorrow
   - f/u sputum, possible BAL for better dx of etiology
   -cont supportive measures, such as nebs prn and supplemental oxygen for
   possible ARDs or TRALI
   .
   # Acute Renal Failure: has Creatinine currently stable at 1.4. Pt also
   with decreased UOP.  Pt is on 100ml/hr NS IVF.  FeNa = 1%.  Likely
   prerenal etiology.  Pt is also third spacing fluid. Pt is anemic and
   will be transfused 1U today which should improve volumen status.
   - will give 500cc bolus of NS and then 1U pRBC
   - will monitor UOP and give additional fluid challenge if ness.
   - will trend Cr
   .
   # Anemia: Hct 22-23 at baseline, stable at Hct 23 and trending down, no
   evidence of active bleeding.  Continue to trend.  Unlikely hemolysis
   given labs (normal bili, elevated hapto, low retic).  Likely
   combination of Fe def and chronic disease.
   - Plan to transfuse 1U today and recheck Hct.
   -guiac all stools
   -outpatient C scope
   .
   # C diff: C diff colitis on this admission presenting with diarrhea.
   Pt with improving diarrhea.  Will continue PO vanc and IV flagyl. On
   [**8-31**] she was C diff toxin positive.
   -cont PO vancomycin and  IV flagyl
   .
   # Gastroparesis and abdominal pain with associated n/v: her symptoms
   are improving.  GJ tube was placed on [**8-30**] by IR. Patient then had
   severe pain and it was noted on CT scan that she had intussusception of
   her duodenum into her stomach with gastric outlet obstruction.
   .
   # FEN: currently on fibersource
   - will need to follow nutrition recs
   .
   #. Diabetes type 1, uncontrolled, with complications of autonomic
   insufficiency, gastroparesis, and periperal neuropathy. HgbA1c was 8.0.
   FS last 24hrs <200
   -gastroparesis improving as above
   - consider now increasing insulin as needed based on increased tube
   feedings
   -cont lantus [**3-15**] and sliding scale insulin.
   .
   #. Depression/Bipolar Disorder: continued remeron, seroquel, fluoxetine
   .
   # Access: Pt with femoral cl, will re-attempt IJ placement today.
   Will also place a-line.
   .
   # PPx:  sc heparin tid, ppi
   .
   # Code: FULL CODE
   .
   # Dispo:  ICU until respiratory stable.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2143-9-10**] 01:30 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-9-7**] 07:46 PM
   Multi Lumen - [**2143-9-8**] 03:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-09-10 09:33:00 Physician Attending Progress Note
Chief Complaint: Hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37yo woman with IDDM initially admitted for gastroparesis, transferred
   to [**Hospital Unit Name 4**] after developing hypoxia over ~36 hours s/p pRBC transfusion.
   Intubated yesterday due to increased work of breathing, persistent
   hypoxia and worsening hypercapnea.
   Left IJ attempted last night, but couldn't pass wire on several
   attempts. Femoral line in place.
   24 Hour Events:
 SPUTUM CULTURE - At [**2143-9-9**] 11:00 PM
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2143-9-7**] 08:23 PM
   Vancomycin - [**2143-9-9**] 06:00 PM
   Metronidazole - [**2143-9-10**] 08:10 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-9-10**] 08:00 AM
   Pantoprazole (Protonix) - [**2143-9-10**] 08:15 AM
   Other medications:
   Heparin subQ
   Protonix
   Seroquel (not getting)
   Fentanyl gtt
   Flagyl 500 IV q8
   Versed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-10**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 105 (104 - 128) bpm
   BP: 109/62(72) {102/52(63) - 143/81(97)} mmHg
   RR: 30 (8 - 32) insp/min
   SpO2: 97%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  4,580 mL
                                                                  1,882 mL
   PO:
             TF:
                                                                    648 mL
                                                                    458 mL
   IVF:
                                                                  3,532 mL
                                                                  1,323 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                    230 mL
   Urine:
                                                                    409 mL
                                                                    230 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  4,071 mL
                                                                  1,652 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 809 (809 - 809) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 36 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.38/46/136/25/1
   Ve: 11.3 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, intubated /
   sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , Bronchial: , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   759 K/uL
   130
   1.4 mg/dL
   25 mEq/L
   4.4 mEq/L
   32 mg/dL
   103 mEq/L
   135 mEq/L
   23.0 %
   17.9 K/uL
        [image002.jpg]
                             [**2143-9-9**]  08:07 AM
                             [**2143-9-9**]  11:39 AM
                             [**2143-9-9**]  02:31 PM
                             [**2143-9-9**]  03:07 PM
                             [**2143-9-9**]  06:00 PM
                             [**2143-9-9**]  08:00 PM
                             [**2143-9-9**]  09:27 PM
                             [**2143-9-10**]  12:00 AM
                             [**2143-9-10**]  04:27 AM
                             [**2143-9-10**]  05:00 AM
   WBC
   17.9
   Hct
   22.8
   23.0
   Plt
   759
   Cr
   1.4
   1.4
   TCO2
   28
   28
   28
   28
   Glucose
   161
   152
   155
   174
   154
   106
   130
   Other labs: PT / PTT / INR:16.3/32.0/1.5, Alk Phos / T Bili:0.1,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:0.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, LDH:360 IU/L, Ca++:7.6 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: ABG (9pm, [**9-9**]): 7.38 / 46 /136
   Imaging: pCXR pending.
   Assessment and Plan
 ANEMIA, OTHER: As below, will transfuse a unit of pRBCs given Hct
   ~23% and low urine output; no compelling e/o hemolysis from yesterday
   labs.
 DIABETES MELLITUS (DM), TYPE I: Continue Lantus, RSSI and follow
   blood sugars.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Her creatinine is
   stable but her UOP remains borderline. She may benefit from colloid in
   the form of pRBCs given she appears predisposed to leaking fluid into
   her interstitium given her low intravascular oncotic pressure.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**]):
   Differential initially included TRALI, however she has not demonstrated
   any significant improvement over the past several days
 TRALI ought to
   have improved over the past several days. Given her persistent hypoxia
   and gastrointestinal issues she is at risk for aspiration events, it
   certainly possible that her acute respiratory failure was [**1-12**]
   aspiration pneumonitis versus infection. Bronch with BAL may help in
   elucidating any active infection or other causes of her decompensation.
   In addition, would strive to keep plateau pressures at or below 30 in
   the setting of [**Doctor Last Name 76**].
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE): Continue Flagyl and follow clinically.
   ACCESS:  Will change to right IJ today and d/c central line. Consider
   A-line.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2143-9-10**] 01:30 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-9-7**] 07:46 PM
   Multi Lumen - [**2143-9-8**] 03:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 37F DM, gastroparesis now with hypoxemic
   respiratory failure. Etiology remains unclear
 aspiration, infection,
   inflammation, hemorrhage are all could explain her decompensation.
   Exam notable for Tm 97.9 BP 120/70 HR 80 RR 18-24 with sat 99 on VAC.
   WD woman in moderate distress with asynchrony on vent. Bronchial BS B.
   RRR s1s2, hyperdynamic. Soft abdomen, trace edema. Moves x4 to noxious
   stimuli. Labs notable for WBC 18K, HCT 23, K+ 4.4, Cr 1.4. CXR c B
   infiltrates, decreased after intubation.
   Agree with plan to sedate and continue low tidal volume ventilation
   while obtaining diagnostic information via flexible bronchoscopy. Will
   place arterial line and resite central line as well. To improve
   synchrony, will increase fentanyl and start haldol. If this is not
   successful, will add propofol and vecuronium x1. Will continue to treat
   c. diff and diabetes as note. Will check PM hematocrit and consider
   tansfusion. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 749**], MD
   on:[**2143-9-10**] 04:59 PM ------

2143-09-11 07:52:00 Physician Resident Progress Note
Chief Complaint: Patient intubated, sedated.
   24 Hour Events:
 ARTERIAL LINE - START [**2143-9-10**] 12:56 PM
 BRONCHOSCOPY - At [**2143-9-10**] 01:45 PM
 MULTI LUMEN - STOP [**2143-9-10**] 05:08 PM
 MULTI LUMEN - START [**2143-9-10**] 05:30 PM
 EKG - At [**2143-9-10**] 09:00 PM
 BRONCHOSCOPY - At [**2143-9-10**] 10:00 PM
 BLOOD CULTURED - At [**2143-9-11**] 05:30 AM
   [**9-10**]
   - Right IJ and aline placed.
   - Patient started on vanco, meropenem, and levofloxacin (continued on
   po vancomycin and IV flagyl.
   - 9p patient became hypotensive with MAP in 40s on max dose neo and
   levo with no improvement.  Transfusion halted, triple lumen used for
   levo, neo, and IVF bolus.  Bladder pressure 17. Patient not
   dissynchronous, but with prolonged I:E with concern over plugging or
   ETT obstruction.  ABG similar to prior. Bronch performed demonstrating
   no obstruction but pus in both airways.  BP then became elevated to
   160s/70s, pressors weaned down (levophed held and neo titrated down).
   Also sounded a little tight, and so was started on albuterol q4h.
   - 5 am, temp to 100.8, cultures drawn.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2143-9-10**] 08:10 PM
   Levofloxacin - [**2143-9-10**] 10:27 PM
   Metronidazole - [**2143-9-11**] 12:00 AM
   Meropenem - [**2143-9-11**] 05:50 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-9-10**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2143-9-10**] 03:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Tube feeds
   Respiratory: Dyspnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2143-9-11**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 107 (102 - 130) bpm
   BP: 92/48(63) {55/33(42) - 123/65(84)} mmHg
   RR: 14 (6 - 30) insp/min
   SpO2: 94%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Height: 63 Inch
    CVP: 15 (13 - 15)mmHg
   Bladder pressure: 13 (13 - 16) mmHg
   Total In:
                                                                  5,698 mL
                                                                  1,684 mL
   PO:
   TF:
                                                                    988 mL
                                                                    368 mL
   IVF:
                                                                  4,133 mL
                                                                  1,196 mL
   Blood products:
                                                                    188 mL
   Total out:
                                                                    431 mL
                                                                     78 mL
   Urine:
                                                                    431 mL
                                                                     78 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,267 mL
                                                                  1,606 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 711 (711 - 711) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: -80 cmH2O/mL
   SpO2: 94%
   ABG: 7.27/52/105/21/-3
   Ve: 7.2 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Conjunctiva pale. Pupils mildly reactive to light.
   Not pinpoint.
   Head, Ears, Nose, Throat: Endotracheal tube, Right IJ in place -
   clean/dry/intact
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: Diffuse. Decreased from yesterday.)
   Abdominal: No(t) Soft, No(t) Bowel sounds present, Distended, Obese, GJ
   Tube in place - clean/dry/intact
   Extremities: Right: 3+, Left: 3+, Warm, well perfused.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   691 K/uL
   7.1 g/dL
   135 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.4 mEq/L
   34 mg/dL
   107 mEq/L
   137 mEq/L
   22.2 %
   17.8 K/uL
        [image002.jpg]
                             [**2143-9-9**]  09:27 PM
                             [**2143-9-10**]  12:00 AM
                             [**2143-9-10**]  04:27 AM
                             [**2143-9-10**]  05:00 AM
                             [**2143-9-10**]  11:29 AM
                             [**2143-9-10**]  07:15 PM
                             [**2143-9-10**]  09:11 PM
                             [**2143-9-11**]  12:29 AM
                             [**2143-9-11**]  03:08 AM
                             [**2143-9-11**]  05:00 AM
   WBC
   17.9
   17.8
   Hct
   23.0
   22.2
   Plt
   759
   691
   Cr
   1.4
   1.6
   TCO2
   28
   27
   25
   24
   24
   25
   Glucose
   154
   106
   130
   135
   Other labs: PT / PTT / INR:16.3/32.0/1.5, Alk Phos / T Bili:/0.1,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:0.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, LDH:360 IU/L, Ca++:7.1 mg/dL, Mg++:1.8
   mg/dL, PO4:3.2 mg/dL
   UA: Mod Blood. WBC = 961. Granular Casts = 21/hpf. Hyaline Casts =
   21/hpf
   Imaging: CHEST, PORTABLE AP ([**2143-9-10**])
   REASON FOR EXAM: 37-year-old woman with possible TRALI. Evaluate for
   change.
   Since yesterday, lung volumes improved. ETT tip is 2.7 cm above the
   carina.
   Bilateral widespread heterogeneous opacities slightly improved, still
   could be
   consistent with multifocal pneumonia or ARDS. There is no pleural
   effusion.
   The cardiomediastinal silhouette is normal. Hila are enlarged, probably
   vascular.
   Microbiology: Blood Culture x2 pending after temperature to 100.8 F
   overnight
   [**2143-9-10**] 2:25 pm BRONCHOALVEOLAR LAVAGE      RML BAL.
      GRAM STAIN (Final [**2143-9-10**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   [**2143-9-6**] 3:51 pm URINE      Source: Catheter.
        **FINAL REPORT [**2143-9-7**]**
      Legionella Urinary Antigen  (Final [**2143-9-7**]):
         NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
              (Reference Range-Negative).
   [**2143-9-10**] 10:31 am URINE      Source: Catheter.
      URINE CULTURE (Pending):
   Assessment and Plan
 HYPOTENSION
   Patient continues with low blood pressure. Requiring Neosynephrine and
   Levophed, which can be increased. Patient received fluid bolus
   overnight. Unclear etiology of hypotension. EKG did not reveal any
   abnormalities. CXR after R IJ placement showed no evidence of
   pneumothorax. Patient
s extremities were warm. Not auto-PEEPing
   overnight when hypotensive.
   -          Continue Neosynephrine and Levophed
   -          Maintain even fluid balance. Bolus if needed.
   -          Check Echo today. Consider IVF if decreased LV volume
   -          Check mixed venous saturation
   -          Check [**Last Name (un) **] stim to assess for adrenal insufficiency
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   This is less likely to be TRALI as she has not improved within [**12-12**]
   days. Etiology of ARDS/[**Doctor Last Name 76**] may be infectious. Sputum culture and BAL
   results still pending. Also possibility of non-pulmonary infection.
   Will do CT scan to assess for intraabdominal pathology.
 BRONCHOSCOPY
   Performed yesterday. Patient started on IV vancomycin, meropenam and
   levofloxacin for question of aspiration pneumonia. Performed again
   overnight, revealing copious pus.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Chronic renal insufficiency. Creatinine and BUN increased today. Likely
   due to hypotension overnight. Urinalysis from [**9-10**] reveals granular
   casts, consistent with ATN.
 ANEMIA, OTHER
   Chronic iron deficiency anemia. Guiaic positive stools yesterday with
   HCT continuing to drop. Received 1 unit of PRBC last night starting at
   7:30PM. HCT = 22.2
 DIABETES MELLITUS (DM), TYPE I
   Continue Insulin sliding scale and fixed dose insulin.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Positive C. diff toxin on [**9-6**]. Continue PO vancomycin and IV flagyl.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2143-9-10**] 10:10 PM 50 mL/hour - Discontinue
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2143-9-10**] 12:56 PM
   Multi Lumen - [**2143-9-10**] 05:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   11:36
   ------ Protected Section ------
   Seen and examined patient with [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1313**].  I have reviewed the
   above note and agree completely with the assesment and plan.   In the
   interim have switched to insulin drip as well given elevated BG, type I
   diabetic and ? if absorbing sc insulin well while has anasarca.
   [**Doctor First Name 1314**] [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 568**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1314**] [**Name8 (MD) 568**], MD
   on:[**2143-9-11**] 12:31 ------

2143-09-12 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2143-9-11**] 06:32 PM
 ARTERIAL LINE - STOP [**2143-9-11**] 06:43 PM
   [**9-11**]
   - A-line replaced
   - Per endocrine recs, decreased insulin regimen to Lantus 3 units [**Hospital1 **]
   with insulin drip (titrate to blood glucose <150)
   Glucose=55 at 7:30am. Discontinued insulin drip.
   - CT head, chest, and abdomen without contrast (preliminary report) -
   Interval worsening of the lung disease suggesting worsening pneumonia
   or noncardiogenic pulmonary edema.
   - TTE not done
   - Pressors weaned at [**2064**] - MAPs hovering between 65-70. Neo restarted
   around 2330 for MAPS 55-60, came back quickly on 2. As of 7:30, no
   pressors.
   - BAL - no growth, PCP negative, AFB negative
   - Blood cultures negative thus far
   - Cortisol stimulation normal (41.6)
   - Repeat ABG at 2300 - given PaO2 trending downwards to 60s, FiO2
   increased
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2143-9-10**] 10:27 PM
   Vancomycin - [**2143-9-11**] 07:51 AM
   Metronidazole - [**2143-9-12**] 12:00 AM
   Meropenem - [**2143-9-12**] 06:23 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Insulin - Regular - 0.5 units/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-9-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea
   Genitourinary: Foley
   Endocrine: Hypoglycemia
   Flowsheet Data as of  [**2143-9-12**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98
   HR: 103 (102 - 115) bpm
   BP: 116/66(85) {82/46(62) - 144/83(90)} mmHg
   RR: 20 (0 - 20) insp/min
   SpO2: 98%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Height: 63 Inch
    CVP: 9 (6 - 16)mmHg
   Total In:
                                                                  3,614 mL
                                                                    372 mL
   PO:
   TF:
                                                                    408 mL
   IVF:
                                                                  2,465 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                    341 mL
                                                                    328 mL
   Urine:
                                                                    341 mL
                                                                     78 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  3,273 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/43/81.[**Numeric Identifier **]/21/-3
   Ve: 9.3 L/min
   PaO2 / FiO2: 137
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anasarca
   Eyes / Conjunctiva: Not pinpoint
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Better compared to
   yesterday)
   Abdominal: Soft, No(t) Bowel sounds present, Distended, Less distended
   compared to yesterday
   Extremities: Right: 3+, Left: 3+, Warm
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   682 K/uL
   7.0 g/dL
   65 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.9 mEq/L
   34 mg/dL
   106 mEq/L
   135 mEq/L
   22.3 %
   18.7 K/uL
        [image002.jpg]
                             [**2143-9-10**]  09:11 PM
                             [**2143-9-11**]  12:29 AM
                             [**2143-9-11**]  03:08 AM
                             [**2143-9-11**]  05:00 AM
                             [**2143-9-11**]  09:52 AM
                             [**2143-9-11**]  11:28 AM
                             [**2143-9-11**]  05:34 PM
                             [**2143-9-11**]  11:06 PM
                             [**2143-9-12**]  04:24 AM
                             [**2143-9-12**]  04:47 AM
   WBC
   17.8
   18.7
   Hct
   22.2
   22.3
   Plt
   691
   682
   Cr
   1.6
   1.6
   1.6
   TCO2
   24
   24
   25
   23
   23
   24
   2- 3
   Glucose
   135
   60
   65
   Other labs: PT / PTT / INR:18.6/28.4/1.7, Alk Phos / T Bili:/0.1,
   Differential-Neuts:89.7 %, Band:0.0 %, Lymph:5.9 %, Mono:3.8 %, Eos:0.5
   %, Lactic Acid:1.6 mmol/L, LDH:360 IU/L, Ca++:7.7 mg/dL, Mg++:2.1
   mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: [**Last Name (un) 567**] Stim = 41.6
   proBNP = [**2071**]
   ABG: 7.32/43/82
   FiO2 = 60%
   Imaging: Provisional Findings Impression: AJy WED [**2143-9-11**] 8:54 PM
   PFI: No acute intracranial process.
   Final Report
   HISTORY: 37-year-old female with respiratory failure.
   COMPARISON: None available.
   TECHNIQUE: Contiguous axial images were obtained through the brain
   without
   the administration of IV contrast.
   FINDINGS: There is no evidence for hemorrhage, edema, mass effect, or
   ischemia. The [**Doctor Last Name 1359**]-white differentiation is preserved. The ventricles
   and
   sulci are normal in size and configuration. The basilar cisterns are
   preserved. The osseous structures are unremarkable without evidence for
   suspicious lytic or sclerotic lesions. There is mild mucosal thickening
   in
   the anterior ethmoid air cells. The sphenoid and maxillary sinuses are
   clear.
   The mastoid air cells are opacified on the right, with question of a
   small
   air-fluid level, and partially opacified on the left, a finding typical
   with
   prolonged intubation.
   IMPRESSION:
   1. No acute intracranial process including no hemorrhage, edema, mass
   effect,
   or infarction.
   2. Opacification of mastoid air cells, which can be found in patients
   with
   prolonged intubation.
   Provisional Findings Impression: FBr WED [**2143-9-11**] 6:25 PM
   Interval worsening of the lung disease suggesting worsening pneumonia
   or
   noncardiogenic pulmonary edema.
   Microbiology: - [**2143-9-9**] 11:38 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2143-9-10**]):
         [**10-5**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
   - [**2143-9-10**] 2:25 pm BRONCHOALVEOLAR LAVAGE      RML BAL.
      GRAM STAIN (Final [**2143-9-10**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2143-9-11**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      ACID FAST SMEAR (Final [**2143-9-11**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
      VIRAL CULTURE (Final [**2143-9-11**]):
         SPECIMEN NOT PROCESSED DUE TO: DUPLICATE REQUEST.
         PATIENT CREDITED.
         REFER TO [**Numeric Identifier 1360**] FOR RESULTS.
   - [**2143-9-10**] 2:25 pm Rapid Respiratory Viral Screen & Culture
         RML BAL.
      Rapid Respiratory Viral Antigen Test (Final [**2143-9-11**]):
         Respiratory viral antigens not detected.
         CULTURE CONFIRMATION PENDING.
   PENDING:
   Blood Culture x2
   Wound tip culture
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   PaO2/FiO2 = 137. This is consistent with ARDS. Etiology is unclear at
   this point, though most likely consistent with aspiration with a
   chemical pneumonitis. Sputum cultures and BAL cultures are negative so
   far. Patient continues to be afebrile. CT Scan yesterday confirmed
   bilateral infiltrates, but has not revealed any additional information
   at this time. Associated respiratory acidosis with superimposed
   metabolic acidosis, likely due to recent diarrhea and IV fluids. Echo
   reveals normal LV function with EF>55%.
   - Continue supportive care. Wake patient daily.
   - Maintain even fluid balance.
   - Perform esophageal pressure balloon and consider increasing PEEP to
   maintain low FiO2.
   - Continue IV Vancomycin, Levofloxacin
   - Discontinue Meropenam.
 HYPOTENSION
   Patient weaned off pressors overnight. BP = 128/70 (91) at this time
   without pressors. [**Last Name (un) 567**] Stim test showed adequate response by the
   adrenal glands. This makes adrenal insufficiency less likely as a
   source of her hypotension.
   - Continue to monitor. Bolus as needed if CVP is low.
 ANEMIA, OTHER
   HCT = 22.2 this morning. Stable. Continue to monitor. Consider
   transfusion if this drops further.
 DIABETES MELLITUS (DM), TYPE I
   Insulin drip recently discontinued as her BS=55. She will receive long
   acting Lantus as basal coverage. Will continue to monitor her blood
   sugars closely. Will follow endocrine recommendations.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Evidence of ATN. BUN and Creatinine elevated, but stable. Continue to
   monitor.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   - Continue PO Vancomycin and IV Flagyl
   ICU Care
   Nutrition:
   Comments: Tube feed discontinued yesterday. Based on official CT read,
   consider restarting tube feeds at 10 cc/hr. Will discuss with GI first.
   Glycemic Control:  Comments: Lantus 3 units. If Insulin drip used, run
   D10 at 20cc/hr to prevent hypoglycemia.
   Lines:
   Multi Lumen - [**2143-9-10**] 05:30 PM
   Arterial Line - [**2143-9-11**] 06:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   14:56
   ------ Protected Section ------
   Patient discussed on rounds. Agree with above assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 121**] [**Last Name (NamePattern1) 1119**], MD
   on:[**2143-9-13**] 07:59 ------

2143-09-13 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Echo was normal with LVEF>55%
   - CT Official Read - Normal
   - Pressures were not hypotensive.
   -Change Vent to Pressure at 4:20pm
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2143-9-12**] 06:23 AM
   Levofloxacin - [**2143-9-12**] 10:31 PM
   Metronidazole - [**2143-9-13**] 12:26 AM
   Vancomycin - [**2143-9-13**] 06:26 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-9-12**] 08:53 AM
   Dextrose 50% - [**2143-9-12**] 04:15 PM
   Heparin Sodium (Prophylaxis) - [**2143-9-12**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO, No(t) Tube feeds
   Respiratory: Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2143-9-13**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 99 (99 - 115) bpm
   BP: 127/69(91) {84/45(58) - 157/79(109)} mmHg
   RR: 20 (17 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 5 (3 - 10)mmHg
   Total In:
                                                                  1,401 mL
                                                                    285 mL
   PO:
   TF:
   IVF:
                                                                  1,271 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    515 mL
   Urine:
                                                                    400 mL
                                                                    165 mL
   NG:
                                                                    250 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    751 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/41/86/20/-2
   Ve: 8.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: No(t) PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Bilaterally)
   Abdominal: Soft, No(t) Bowel sounds present, Distended, Obese
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing, Warm,
   well perfused
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   543 K/uL
   6.1 g/dL
   60 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.5 mEq/L
   37 mg/dL
   106 mEq/L
   135 mEq/L
   18.8 %
   14.8 K/uL
        [image002.jpg]
                             [**2143-9-11**]  05:00 AM
                             [**2143-9-11**]  09:52 AM
                             [**2143-9-11**]  11:28 AM
                             [**2143-9-11**]  05:34 PM
                             [**2143-9-11**]  11:06 PM
                             [**2143-9-12**]  04:24 AM
                             [**2143-9-12**]  04:47 AM
                             [**2143-9-12**]  04:36 PM
                             [**2143-9-13**]  04:06 AM
                             [**2143-9-13**]  04:22 AM
   WBC
   18.7
   14.8
   Hct
   22.3
   18.8
   Plt
   682
   543
   Cr
   1.6
   1.6
   1.5
   TCO2
   25
   23
   23
   24
   23
   25
   24
   Glucose
   60
   65
   59
   60
   Other labs: PT / PTT / INR:20.2/29.8/1.9, Alk Phos / T Bili:/0.1,
   Differential-Neuts:88.3 %, Band:0.0 %, Lymph:5.8 %, Mono:3.5 %, Eos:2.4
   %, Lactic Acid:0.8 mmol/L, LDH:360 IU/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: Vanco Trough = 37
   Microbiology: - [**2143-9-10**] 7:19 pm CATHETER TIP-IV      Source: Femoral
   CVL.
      WOUND CULTURE (Preliminary):    No significant growth.
   - [**2143-9-10**] 2:25 pm Rapid Respiratory Viral Screen & Culture
         RML BAL.
      Rapid Respiratory Viral Antigen Test (Final [**2143-9-11**]):
         Respiratory viral antigens not detected.
         CULTURE CONFIRMATION PENDING.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
         This kit is not FDA approved for direct detection of
   parainfluenza
         virus in specimens; interpret parainfluenza results with caution.
      VIRAL CULTURE (Preliminary):    No Virus isolated so far.
   Assessment and Plan
   37 year old female with DM Type 1 admitted initially for gastroparesis,
   transferred to ICU with respiratory distress after receiving blood
   transfusion and tube feeds with ARDS.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   ARDS of unclear etiology. Likely aspiration with chemical pneumonitis.
   Sputum cultures and BAL cultures are negative. Blood cultures pending.
   Patient continues to be afebrile. CT Scan two days ago confirmed
   bilateral infiltrates. Official CT read indicated normal abdomen and
   brain. Patient
s fluid balance is -230ml over last 24 hours.
   - Continue supportive care. Wake patient daily.
   - Maintain even fluid balance. Consider diuresis today.
   - Perform esophageal pressure balloon and consider increasing PEEP to
   maintain low FiO2.
   - Consider discontinuing IV Vancomycin, Levofloxacin as cultures
   continue to be negative.
 HYPOTENSION
   Patient not requiring pressors. BP has been stable over past 24 hours.
   Currently 151/75 (104).
   - Continue to monitor. Bolus as needed if CVP is low.
 ANEMIA, OTHER
   HCT = 18.8 this morning. Patient very pale.
   - Transfuse today with 1 unit PRBC.
 DIABETES MELLITUS (DM), TYPE I
   [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recommendations, patient on Insulin drip with 05.unit/hour,
   Lantus 2 units [**Hospital1 **], and D50W as needed for blood sugar less than 70.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Evidence of ATN. BUN and Creatinine stable. Continue to monitor.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   - Continue PO Vancomycin and IV Flagyl
   ICU Care
   Nutrition: No tube feeds at this time. Consider restarting tube feeds
   if patient becomes more clinically stable. Consider TPN in interim if
   additional nutrition is needed.
   Glycemic Control:  Insulin infusion, Comments: Insulin Drip 0.5/hr
   Lantus 2 units [**Hospital1 **]
   D50 prn for low blood glucose
   Lines:
   Multi Lumen - [**2143-9-10**] 05:30 PM
   Arterial Line - [**2143-9-11**] 06:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-09-13 10:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Echo was normal with LVEF>55%
   - CT Official Read - Normal
   - Pressures were not hypotensive.
   -Change Vent to Pressure at 4:20pm
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2143-9-12**] 06:23 AM
   Levofloxacin - [**2143-9-12**] 10:31 PM
   Metronidazole - [**2143-9-13**] 12:26 AM
   Vancomycin - [**2143-9-13**] 06:26 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-9-12**] 08:53 AM
   Dextrose 50% - [**2143-9-12**] 04:15 PM
   Heparin Sodium (Prophylaxis) - [**2143-9-12**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO, No(t) Tube feeds
   Respiratory: Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2143-9-13**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 99 (99 - 115) bpm
   BP: 127/69(91) {84/45(58) - 157/79(109)} mmHg
   RR: 20 (17 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 5 (3 - 10)mmHg
   Total In:
                                                                  1,401 mL
                                                                    285 mL
   PO:
   TF:
   IVF:
                                                                  1,271 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    515 mL
   Urine:
                                                                    400 mL
                                                                    165 mL
   NG:
                                                                    250 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    751 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/41/86/20/-2
   Ve: 8.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: No(t) PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Bilaterally)
   Abdominal: Soft, No(t) Bowel sounds present, Distended, Obese
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing, Warm,
   well perfused
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   543 K/uL
   6.1 g/dL
   60 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.5 mEq/L
   37 mg/dL
   106 mEq/L
   135 mEq/L
   18.8 %
   14.8 K/uL
        [image002.jpg]
                             [**2143-9-11**]  05:00 AM
                             [**2143-9-11**]  09:52 AM
                             [**2143-9-11**]  11:28 AM
                             [**2143-9-11**]  05:34 PM
                             [**2143-9-11**]  11:06 PM
                             [**2143-9-12**]  04:24 AM
                             [**2143-9-12**]  04:47 AM
                             [**2143-9-12**]  04:36 PM
                             [**2143-9-13**]  04:06 AM
                             [**2143-9-13**]  04:22 AM
   WBC
   18.7
   14.8
   Hct
   22.3
   18.8
   Plt
   682
   543
   Cr
   1.6
   1.6
   1.5
   TCO2
   25
   23
   23
   24
   23
   25
   24
   Glucose
   60
   65
   59
   60
   Other labs: PT / PTT / INR:20.2/29.8/1.9, Alk Phos / T Bili:/0.1,
   Differential-Neuts:88.3 %, Band:0.0 %, Lymph:5.8 %, Mono:3.5 %, Eos:2.4
   %, Lactic Acid:0.8 mmol/L, LDH:360 IU/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: Vanco Trough = 37
   Microbiology: - [**2143-9-10**] 7:19 pm CATHETER TIP-IV      Source: Femoral
   CVL.
      WOUND CULTURE (Preliminary):    No significant growth.
   - [**2143-9-10**] 2:25 pm Rapid Respiratory Viral Screen & Culture
         RML BAL.
      Rapid Respiratory Viral Antigen Test (Final [**2143-9-11**]):
         Respiratory viral antigens not detected.
         CULTURE CONFIRMATION PENDING.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
         This kit is not FDA approved for direct detection of
   parainfluenza
         virus in specimens; interpret parainfluenza results with caution.
      VIRAL CULTURE (Preliminary):    No Virus isolated so far.
   Assessment and Plan
   37 year old female with DM Type 1 admitted initially for gastroparesis,
   transferred to ICU with respiratory distress after receiving blood
   transfusion and tube feeds with ARDS.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   ARDS of unclear etiology. Likely aspiration with chemical pneumonitis.
   Sputum cultures and BAL cultures are negative. Blood cultures pending.
   Patient continues to be afebrile. CT Scan two days ago confirmed
   bilateral infiltrates. Official CT read indicated normal abdomen and
   brain. Patient
s fluid balance is -230ml over last 12 hours. Had
   considered diuresis today. However, with CVP=5 and MAP=65, this would
   be contraindicated.
   - Continue supportive care. Wake patient daily.
   - Maintain even fluid balance.
   - Will discontinue IV Vancomycin and Levofloxacin.
 HYPOTENSION
   Patient not requiring pressors. BP has been stable over past 24 hours.
   Currently 151/75 (104).
   - Continue to monitor. Bolus as needed if CVP is low.
   - Transfusion should help this as well.
 ANEMIA, OTHER
   HCT = 18.8 this morning. Patient very pale.
   - Transfuse today with 2-3 unit PRBC.
   - Will recheck hemolysis labs
 DIABETES MELLITUS (DM), TYPE I
   [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recommendations, patient on Insulin drip with 0.5 unit/hour,
   Lantus 2 units [**Hospital1 **], and D50W as needed for blood sugar less than 70.
   Patient has occasional episodes of hypoglycemia that should improve
   with addition of TPN.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Evidence of ATN. BUN and Creatinine stable. Continue to monitor.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   - Continue PO Vancomycin and IV Flagyl
   Patient has not been receiving tube feeds. INR =1.9, Albumin = 1.4.
   These indicate nutritional deficiencies. GI continues to suggest that
   tube feeds should not be utilized.
   - Start TPN for nutrition.
   - Give Vitamin K IV to treat the elevated INR.
   - Check LFTs.
   ICU Care
   Nutrition: No tube feeds at this time. Consider restarting tube feeds
   if patient becomes more clinically stable. Consider TPN in interim if
   additional nutrition is needed.
   Glycemic Control:  Insulin infusion, Comments: Insulin Drip 0.5/hr
   Lantus 2 units [**Hospital1 **]
   D50 prn for low blood glucose
   Lines:
   Multi Lumen - [**2143-9-10**] 05:30 PM
   Arterial Line - [**2143-9-11**] 06:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI [**Hospital1 **]
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   11:46

2143-09-14 15:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - dc'd levo/vanco
   - wrote for TPN to start; TF still on hold per GI
   - got 1uPRBC, started 2uPRBC & pt noted to be dysynchronus w/ vent,
   increasingly hypoxic.  CXR slightly worse vs unchanged.  Put on
   pressure support w/ good effect.  Of note, tried lasix gtt, pt on
   2mg/hr, not increasing UOP (over ~1hr), but did drop BP from 120s to
   80s systolic, so dc'd that.  Went up on sedation to help ventilate.
   - discussed workup for TRALI.  Blood bank fellow, felt unlikely dx.
   Have not yet sent blood for w/u.
   - 1900, hypotensive with MAP ~60, initially fluid responsive to 500 cc
   bolus but became hypotensive again and was not fluid responsive (500 cc
   bolus), restarted levophed
   - Desat this AM with dyssynchrony and increased alertness.  Found to be
   tight and difficult to ventilate by hand. Received additional boluses
   of sedation and suctioned out with improvement.
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2143-9-12**] 06:23 AM
   Levofloxacin - [**2143-9-12**] 10:31 PM
   Metronidazole - [**2143-9-14**] 11:40 AM
   Vancomycin - [**2143-9-14**] 12:55 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl - 325 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-9-13**] 08:08 PM
   Midazolam (Versed) - [**2143-9-14**] 04:45 AM
   Fentanyl - [**2143-9-14**] 04:45 AM
   Heparin Sodium (Prophylaxis) - [**2143-9-14**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain this morning.
   Flowsheet Data as of  [**2143-9-14**] 03:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 126 (81 - 126) bpm
   BP: 121/57(74) {66/41(50) - 128/67(85)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Height: 63 Inch
    CVP: 12 (12 - 14)mmHg
   Total In:
                                                                  3,144 mL
                                                                  2,084 mL
   PO:
   TF:
   IVF:
                                                                  2,210 mL
                                                                  1,367 mL
   Blood products:
                                                                    421 mL
   Total out:
                                                                  1,435 mL
                                                                    320 mL
   Urine:
                                                                    460 mL
                                                                    320 mL
   NG:
                                                                    975 mL
   Stool:
   Drains:
   Balance:
                                                                  1,709 mL
                                                                  1,764 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 30 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 80%
   PIP: 48 cmH2O
   SpO2: 99%
   ABG: 7.21/57/75/21/-5
   Ve: 9.4 L/min
   PaO2 / FiO2: 94
   Physical Examination
   General: Edematous
   CV: RRR, normal S1/S2
   Pulm: Coarse breath sounds diffusely; no crackles appreciated
   Abd: Distended, firm, decreased bowel sounds
   Labs / Radiology
   549 K/uL
   7.8 g/dL
   96 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   38 mg/dL
   107 mEq/L
   135 mEq/L
   23.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2143-9-13**]  12:48 PM
                             [**2143-9-13**]  02:24 PM
                             [**2143-9-13**]  06:47 PM
                             [**2143-9-13**]  07:01 PM
                             [**2143-9-14**]  12:33 AM
                             [**2143-9-14**]  04:56 AM
                             [**2143-9-14**]  05:00 AM
                             [**2143-9-14**]  06:53 AM
                             [**2143-9-14**]  12:49 PM
                             [**2143-9-14**]  03:23 PM
   WBC
   14.5
   Hct
   21.8
   20.4
   23.3
   Plt
   549
   Cr
   1.4
   TCO2
   21
   21
   23
   23
   23
   22
   24
   Glucose
   96
   Other labs: PT / PTT / INR:15.8/30.8/1.4, ALT / AST:[**5-19**], Alk Phos / T
   Bili:141/0.2, Differential-Neuts:83.1 %, Band:0.0 %, Lymph:10.2 %,
   Mono:3.8 %, Eos:2.7 %, Lactic Acid:0.8 mmol/L, Albumin:1.6 g/dL,
   LDH:371 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   37 year old female with DM Type 1 admitted initially for gastroparesis,
   transferred to ICU with respiratory distress after receiving blood
   transfusion and tube feeds with ARDS.

 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   ARDS of unclear etiology. Likely aspiration with chemical pneumonitis.
   Patient with hypoxia following/during blood transfusiom twice now,
   though TRALI less likely. Sputum cultures and BAL cultures are
   negative. Blood cultures pending. Patient continues to be afebrile. CT
   Scan two days ago confirmed bilateral infiltrates. Official CT read
   indicated normal abdomen and brain. Diuresis with furosemide tried
   yesterday, although patient unable to tolerate with fall in BP. By ABG,
   respiratory acidosis currently. FiO2 increased.
   - Will again try to wean off FiO2 again. Given respiratory acidosis,
   will increase respiratory rate can continue to monitor ABGs.
   - Plateau pressure elevated, although is likely necessary given
   increased intraabdominal pressure
   - Continue supportive care. Wake patient daily.
   - Maintain even fluid balance
 will try to diuresis again this
   morning. Given low albumin, will try higher furosemide drip and titrate
   as necessary
   - Vancomycin IV and levofloxacin discontinued.
 HYPOTENSION
   Pressors restarted. Currently on Levophed. Unclear source, although
   elevated PEEP may be contributing to decreased preload
 less likely
   given that pressure is very labile.
   - Continue to monitor. Bolus as needed if CVP is low.

 ANEMIA, OTHER
   HCT inproved this morning appropriately following transfusion. Unable
   to tolerate >1 unit pRBC yesterday given hypoxia
 unclear if reaction
   to blood or fluid overload.
   - Continue to monitor..
 DIABETES MELLITUS (DM), TYPE I
   [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recommendations, patient on Insulin drip with 0.5 unit/hour,
   Lantus 2 units [**Hospital1 **], and D50W as needed for blood sugar less than 70.
   Patient has occasional episodes of hypoglycemia that should improve
   with addition of TPN.
   - Follow-up [**Hospital1 772**] recs
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Improving. Evidence of ATN. BUN and Creatinine stable.
   - Continue to monitor.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   - Continue PO Vancomycin and IV Flagyl
   Patient has not been receiving tube feeds. INR =1.9, Albumin = 1.4.
   These indicate nutritional deficiencies. GI continues to suggest that
   tube feeds should not be utilized
   - TPN started [**2143-8-14**].
   - Give Vitamin K IV to treat the elevated INR.
   - Check LFTs.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2143-9-13**] 05:49 PM 41 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-9-10**] 05:30 PM
   Arterial Line - [**2143-9-11**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-09-15 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Restarted furosemide drip at 15mg/hour with good urine output. Slight
   creatinine bump, resolved (1.4>1.6>1.4).
   - RR initially increased with improvement in acidosis but increase in
   PCO2. PEEP decreased from 18 to 15 to increase minute ventilation in
   hopes of blowing off more CO2 -> 7.31/41/77
   - Spiked fever (to 100.1, then 101.5) - sent blood and urine cultures
 BLOOD CULTURED - At [**2143-9-15**] 04:43 AM
 URINE CULTURE - At [**2143-9-15**] 04:43 AM
 FEVER - 101.5
F - [**2143-9-14**] 08:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2143-9-12**] 10:31 PM
   Vancomycin - [**2143-9-14**] 12:55 PM
   Metronidazole - [**2143-9-15**] 04:12 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-9-14**] 04:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-9-15**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.9
C (98.5
   HR: 112 (107 - 130) bpm
   BP: 124/60(79) {99/48(62) - 143/69(91)} mmHg
   RR: 22 (5 - 23) insp/min
   SpO2: 95%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 87.2 kg
   Height: 63 Inch
    CVP: 12 (10 - 16)mmHg
   Total In:
                                                                  3,435 mL
                                                                    925 mL
   PO:
   TF:
   IVF:
                                                                  2,248 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                    855 mL
   Urine:
                                                                    655 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,780 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 30 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   SpO2: 95%
   ABG: 7.26/52/63/21/-4
   Ve: 8.9 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, minimally recative to light
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: anteriorly)
   Abdominal: Soft, Bowel sounds present, No(t) Tender:
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   446 K/uL
   7.4 g/dL
   70 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.0 mEq/L
   43 mg/dL
   106 mEq/L
   135 mEq/L
   23.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2143-9-14**]  05:00 AM
                             [**2143-9-14**]  06:53 AM
                             [**2143-9-14**]  12:49 PM
                             [**2143-9-14**]  03:23 PM
                             [**2143-9-14**]  05:50 PM
                             [**2143-9-14**]  09:43 PM
                             [**2143-9-14**]  11:26 PM
                             [**2143-9-15**]  02:32 AM
                             [**2143-9-15**]  04:25 AM
                             [**2143-9-15**]  04:43 AM
   WBC
   14.5
   14.8
   Hct
   23.3
   23.0
   Plt
   549
   446
   Cr
   1.4
   1.6
   1.4
   1.4
   TCO2
   23
   22
   24
   22
   20
   24
   Glucose
   96
   103
   97
   70
   Other labs: PT / PTT / INR:17.9/32.3/1.6, ALT / AST:[**4-17**], Alk Phos / T
   Bili:132/0.2, Differential-Neuts:80.7 %, Band:0.0 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:3.6 %, Lactic Acid:0.8 mmol/L, Albumin:1.5 g/dL,
   LDH:327 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE I
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   37 year old female with DM Type 1 admitted initially for gastroparesis,
   transferred to ICU with respiratory distress after receiving blood
   transfusion and tube feeds with ARDS.

 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   ARDS of unclear etiology. Likely aspiration with chemical pneumonitis.
   Sputum cultures and BAL cultures are negative. Blood cultures pending.
   Patient with 101.5 fever yesterday --> BCx and UCx sent, currently
   afebrile. CT Scan confirmed bilateral infiltrates. Official CT read
   indicated normal abdomen and brain. Furosemide restarted yesterday and
   tolerating. By ABG, respiratory acidosis currently.
   - Will again try to wean FiO2 again. Given respiratory acidosis, will
   decrease PEEP can continue to monitor ABGs.
   - Continue supportive care. Wake patient daily.
   - Maintain even fluid balance
 will cont lasix gtt at 15
   - send sputum culture
   - If continues to be febrile will check RUQ and possible CT-abdomin
 HYPOTENSION
   Pressors restarted. Currently on Levophed. Unclear source, although
   elevated PEEP may be contributing to decreased preload
 less likely
   given that pressure is very labile.
   -          Continue to monitor. Bolus as needed if CVP is low.
   -          Check bladder pressure for increased intraabdominal pressure

 ANEMIA, OTHER
   HCT stable this morning at 23.0.  Will cont to monitor and transufse
   <21.
 DIABETES MELLITUS (DM), TYPE I
   [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recommendations, patient on Insulin drip with 0.5 unit/hour,
   Lantus 2 units [**Hospital1 **], and D50W as needed for blood sugar less than 70.
   Patient has occasional episodes of hypoglycemia that should improve
   with addition of TPN.
   -          Follow-up [**Hospital1 772**] recs
   -
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Improving. Evidence of ATN. BUN and Creatinine stable.
   -          Continue to monitor on lasix ggt
   -          Check 3pm lytes
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   - Continue PO Vancomycin and IV Flagyl
   Patient has not been receiving tube feeds. INR =1.9, Albumin = 1.4.
   These indicate nutritional deficiencies. GI continues to suggest that
   tube feeds should not be utilized
   - TPN started [**2143-9-13**].
   - Give Vitamin K IV to treat the elevated INR.
   - Check LFTs.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2143-9-14**] 06:06 PM 41 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2143-9-10**] 05:30 PM
   Arterial Line - [**2143-9-11**] 06:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-09-16 01:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2143-9-15**] 04:36 PM
 FEVER - 101.3
F - [**2143-9-16**] 04:00 AM
   - pt with intermittent drops in BP (SBP 70's) pt was started on
   vasopressin, cont on levophed.  Cont to drop pressures overnight and
   would increase pressures with increasing levophed.
   - worsening acidosis and [**Month (only) 453**] PaO2 despite FiO2 at 100%. Pt was on
   pressure support, but plateau pressures elevated.  Pt was was paralyzed
   with Cisatracurium and changed to Volume control.
   Assist control (Volume Targeted)
   Tidal volume: 400 cc Respiratory rate: 25 PEEP: 18 cm/h2o FIO2: 100 %
   - d/c lasix gtt because of low BP
   - pt started on vancomycin and meropenem empirically
   - Pt R IJ needs to be pulled out 3-4cm, but deferred b/c needed the
   line to cont pressors.
   - R femoral line placed
   - Pt started on heparin ggt to cover for PE
   - pt made DNR
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2143-9-15**] 06:31 PM
   Metronidazole - [**2143-9-16**] 05:30 AM
   Meropenem - [**2143-9-16**] 06:16 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,000 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Insulin - Regular - 3.5 units/hour
   Cisatracurium - 0.15 mg/Kg/hour
   Fentanyl - 450 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-9-15**] 08:19 AM
   Pantoprazole (Protonix) - [**2143-9-15**] 08:30 AM
   Cisatracurium - [**2143-9-15**] 07:52 PM
   Heparin Sodium - [**2143-9-16**] 03:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Nutritional Support: Parenteral nutrition
   Respiratory: Dyspnea
   Genitourinary: Foley
   Neurologic: Paralyzed
   Flowsheet Data as of  [**2143-9-16**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 110 (80 - 145) bpm
   BP: 113/61(75) {60/34(42) - 203/90(124)} mmHg
   RR: 0 (0 - 25) insp/min
   SpO2: 84%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 87.2 kg
   Height: 63 Inch
    CVP: 15 (11 - 21)mmHg
   Total In:
                                                                  4,303 mL
                                                                  1,739 mL
   PO:
   TF:
   IVF:
                                                                  3,207 mL
                                                                  1,330 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                    590 mL
   Urine:
                                                                  1,915 mL
                                                                    570 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  2,388 mL
                                                                  1,149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 420) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 30 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Neuromusc Block, Hemodynamic
   Instability
   PIP: 53 cmH2O
   SpO2: 84%
   ABG: 7.29/46/91.[**Numeric Identifier 253**]/21/-4
   Ve: 10.3 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: No(t) Soft, No(t) Bowel sounds present, Distended, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, Rash: Face - dry appearing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   482 K/uL
   7.0 g/dL
   91 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.8 mEq/L
   47 mg/dL
   105 mEq/L
   133 mEq/L
   21.1 %
   20.4 K/uL
        [image002.jpg]
                             [**2143-9-15**]  04:43 AM
                             [**2143-9-15**]  06:28 AM
                             [**2143-9-15**]  11:24 AM
                             [**2143-9-15**]  01:16 PM
                             [**2143-9-15**]  03:04 PM
                             [**2143-9-15**]  03:19 PM
                             [**2143-9-15**]  09:25 PM
                             [**2143-9-15**]  11:34 PM
                             [**2143-9-16**]  04:13 AM
                             [**2143-9-16**]  04:32 AM
   WBC
   20.4
   Hct
   21.1
   Plt
   482
   Cr
   1.4
   1.3
   TCO2
   24
   27
   22
   23
   24
   25
   24
   23
   Glucose
   140
   101
   91
   Other labs: PT / PTT / INR:18.7/59.1/1.7, ALT / AST:[**3-22**], Alk Phos / T
   Bili:138/0.2, Differential-Neuts:80.7 %, Band:0.0 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:3.6 %, Lactic Acid:1.4 mmol/L, Albumin:1.5 g/dL,
   LDH:351 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Microbiology: Urine Cultures x2 = Pending
   Blood Cultures x4 = Pending
   Assessment and Plan
   37 year old female with DM1 with ARDS. Family has decided to withdraw
   care. Patient to be extubate today with CMO.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2143-9-15**] 06:00 PM 53 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2143-9-11**] 06:32 PM
   Multi Lumen - [**2143-9-15**] 04:36 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: CMO
   Disposition:ICU
   13:11

2143-09-16 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2143-9-15**] 04:36 PM
 FEVER - 101.3
F - [**2143-9-16**] 04:00 AM
   - pt with intermittent drops in BP (SBP 70's) pt was started on
   vasopressin, cont on levophed.  Cont to drop pressures overnight and
   would increase pressures with increasing levophed.
   - worsening acidosis and [**Month (only) 453**] PaO2 despite FiO2 at 100%. Pt was on
   pressure support, but plateau pressures elevated.  Pt was was paralyzed
   with Cisatracurium and changed to Volume control.
   Assist control (Volume Targeted)
   Tidal volume: 400 cc Respiratory rate: 25 PEEP: 18 cm/h2o FIO2: 100 %
   - d/c lasix gtt because of low BP
   - pt started on vancomycin and meropenem empirically
   - Pt R IJ needs to be pulled out 3-4cm, but deferred b/c needed the
   line to cont pressors.
   - R femoral line placed
   - Pt started on heparin ggt to cover for PE
   - pt made DNR
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2143-9-15**] 06:31 PM
   Metronidazole - [**2143-9-16**] 05:30 AM
   Meropenem - [**2143-9-16**] 06:16 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,000 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Insulin - Regular - 3.5 units/hour
   Cisatracurium - 0.15 mg/Kg/hour
   Fentanyl - 450 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-9-15**] 08:19 AM
   Pantoprazole (Protonix) - [**2143-9-15**] 08:30 AM
   Cisatracurium - [**2143-9-15**] 07:52 PM
   Heparin Sodium - [**2143-9-16**] 03:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Nutritional Support: Parenteral nutrition
   Respiratory: Dyspnea
   Genitourinary: Foley
   Neurologic: Paralyzed
   Flowsheet Data as of  [**2143-9-16**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 110 (80 - 145) bpm
   BP: 113/61(75) {60/34(42) - 203/90(124)} mmHg
   RR: 0 (0 - 25) insp/min
   SpO2: 84%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 87.2 kg
   Height: 63 Inch
    CVP: 15 (11 - 21)mmHg
   Total In:
                                                                  4,303 mL
                                                                  1,739 mL
   PO:
   TF:
   IVF:
                                                                  3,207 mL
                                                                  1,330 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                    590 mL
   Urine:
                                                                  1,915 mL
                                                                    570 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  2,388 mL
                                                                  1,149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 420) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 30 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Neuromusc Block, Hemodynamic
   Instability
   PIP: 53 cmH2O
   SpO2: 84%
   ABG: 7.29/46/91.[**Numeric Identifier 253**]/21/-4
   Ve: 10.3 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: No(t) Soft, No(t) Bowel sounds present, Distended, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, Rash: Face - dry appearing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   482 K/uL
   7.0 g/dL
   91 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.8 mEq/L
   47 mg/dL
   105 mEq/L
   133 mEq/L
   21.1 %
   20.4 K/uL
        [image002.jpg]
                             [**2143-9-15**]  04:43 AM
                             [**2143-9-15**]  06:28 AM
                             [**2143-9-15**]  11:24 AM
                             [**2143-9-15**]  01:16 PM
                             [**2143-9-15**]  03:04 PM
                             [**2143-9-15**]  03:19 PM
                             [**2143-9-15**]  09:25 PM
                             [**2143-9-15**]  11:34 PM
                             [**2143-9-16**]  04:13 AM
                             [**2143-9-16**]  04:32 AM
   WBC
   20.4
   Hct
   21.1
   Plt
   482
   Cr
   1.4
   1.3
   TCO2
   24
   27
   22
   23
   24
   25
   24
   23
   Glucose
   140
   101
   91
   Other labs: PT / PTT / INR:18.7/59.1/1.7, ALT / AST:[**3-22**], Alk Phos / T
   Bili:138/0.2, Differential-Neuts:80.7 %, Band:0.0 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:3.6 %, Lactic Acid:1.4 mmol/L, Albumin:1.5 g/dL,
   LDH:351 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Microbiology: Urine Cultures x2 = Pending
   Blood Cultures x4 = Pending
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ARDS
   Patient continues to be in respiratory failure with increasing FiO2
   requirements. Patient required bag ventilation overnight due to
   decrease oxygen saturation.
   - Continue supportive care with mechanical ventilation
   - Vancomycin and Meropenem started empirically secondary to fever spike
   - Await cultures
 POSSIBLE PULMONARY EMBOLISM
   Increasing CO2, which is indicative of increasing dead space, and
   elevated temperature overnight are consistent with pulmonary embolism.
   Patient started on heparin drip empirically.
 ANEMIA, OTHER
   HCT=21.1 today. Plan to transfuse today.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Rising BUN with stable Cr likely due to hypovolemia. This should
   improve with blood transfusion.
 MALNUTRITION
   Elevated INR and decreased albumin evidence of poor nutritional status.
   - Continue TPN
 EDEMA, PERIPHERAL
   Lasix started to decreased edema/anasarca. Resulted in decreased blood
   pressure and was subsequently discontinued.
 DIABETES MELLITUS (DM), TYPE I
   Continue insulin drip and lantus 2 units [**Hospital1 **].
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Continue PO Vancomycin and IV Flagyl
  CODE STATUS
   DNR. Discussion with family yesterday.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2143-9-15**] 06:00 PM 53 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2143-9-11**] 06:32 PM
   Multi Lumen - [**2143-9-15**] 04:36 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU